US08207178B2
Step E: 4′-(2-(4-cyanophenylamino)-9-methyl-9H-purin-6-yloxy)-3′,5′-dimethylbiphenyl-4-carboxamide
To a solution of 4′-(2-(4-cyanophenylamino)-9-methyl-9H-purin-6-yloxy)-3′,5′-dimethylbiphenyl-4-carboxylic acid (40 mg, 0.082 mmol), HOAt (23 mg, 0.18 mmol), and EDCI (35 mg, 0.18 mmol) was added ammonium chloride (25 mg, 0.47 mmol) followed by TEA (0.1 mL, 0.72 mmol) at rt. The reaction mixture was heated at 80° C. for 1 h and added H2O. The solid material which precipitated was collected by filtration and purified on silica gel preparative TLC to yield the desired compound. NMR (DMSO-d6): δ 10.10 (s, 1H), 8.25 (s, 1H), 8.08 (s, 1H), 8.03 (d, 2H), 7.87 (d, 2H), 7.66 (s, 2H), 7.62 (d, 2H), 7.43 (s, 1H), 7.35 (d, 2H), 3.80 (s, 3H), 2.18 (s, 6H); MS (ESI): m/z 490 (M+1)+.

reactant | 4′-(2-(4-cyanophenylamino)-9-methyl-9H-purin-6-yloxy)-3′,5′-dimethylbiphenyl-4-carboxylic acid | 0.082 mmol, 40 mg | C(#N)C1=CC=C(C=C1)NC1=NC(=C2N=CN(C2=N1)C)OC1=C(C=C(C=C1C)C1=CC=C(C=C1)C(=O)O)C | C28H22N6O3
reactant | HOAt | 0.18 mmol, 23 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDCI | 0.18 mmol, 35 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | ammonium chloride | 0.47 mmol, 25 mg | [Cl-].[NH4+]
solvent | H2O | O | H2O
product | 4′-(2-(4-cyanophenylamino)-9-methyl-9H-purin-6-yloxy)-3′,5′-dimethylbiphenyl-4-carboxamide | C(#N)C1=CC=C(C=C1)NC1=NC(=C2N=CN(C2=N1)C)OC1=C(C=C(C=C1C)C1=CC=C(C=C1)C(=O)N)C | C28H23N7O2
